Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
Klonopin overdose
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
The pt is a ___ woman w/ no significant PMHx who was brought 
in to the ED by her boyfriend after she took "a handful" of 
Klonipin in a suicide gesture. The pt reportedly took a lot of 
Klonipin "because she wanted to kill herself" and then called 
her boyfriend to tell him this, who then called EMS. She reports 
coming home from work and feeling very stressed, so she took her 
usual dose of Klonipin. She felt good relief, but felt that she 
wanted to remain relaxed for a while, so took the rest of the 
bottle of her Klonipin. She estimates that she used approx ___ 
pills tonight. She currently denies any interest in hurting or 
killing herself. On arrival to the ED: VS - Temp 97.9F, HR 86, 
SBP 144, R 18, O2-sat 100% RA. She was very somnolent but 
otherwise had a normal neuro exam. Serum and urine tox screens 
were negative, and her ECG was normal. She received 1 dose of 
charcoal and Zofran and toxicology was consulted, who felt that 
the pt was at risk for CNS and respiratory depression from 
benzodiazepine overdose. They recommended supportive care with 
IVF and O2, and to use flumazenil only if nearing intubation. 
She was admitted to the MICU for monitoring given the risk of 
CNS and respiratory depression and the long half-life of 
clonazepam being as long as 50-60 hours.
 
Past Medical History:
Anxiety and depression
 
Social History:
___
Family History:
Noncontributory
 
Physical Exam:
VS - Temp F, BP 101/63, HR 61, R 18, O2-sat 100% RA
GENERAL - somnolent thin young woman in NAD, comfortable, 
appropriate
HEENT - NC/AT, PERRL, EOMI, sclerae anicteric, dry MM
NECK - supple, no thyromegaly or LAD
LUNGS - CTA bilat, no r/rh/wh
HEART - RRR, nl S1-S2, no MRG
ABDOMEN - +BS, soft/NT/ND, no HSM
EXTREMITIES - WWP, no c/c/e, 2+ radials / DPs
SKIN - no rashes or lesions
NEURO - somnolent but easily arousable to voice, directable and 
able to respond appropriately, oriented x2 (which hospital am I 
in?), CNs II-XII grossly intact, muscle strength ___ throughout, 
sensation grossly intact throughout
 
Pertinent Results:
___ 10:00PM URINE  ___ BACTERIA-OCC 
YEAST-NONE ___ 10:00PM URINE  BLOOD-MOD NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-7.0 
LEUK-SM
___ 10:00PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG mthdone-NEG
___ 10:00PM URINE  UCG-NEGATIVE
___ 10:05PM   WBC-5.0 RBC-5.13 HGB-14.7 HCT-43.7 MCV-85 
MCH-28.6 MCHC-33.7 RDW-12.8
___ 10:05PM   NEUTS-55.8 ___ MONOS-4.7 EOS-2.2 
BASOS-0.3
___ 11:05PM   GLUCOSE-90 UREA N-7 CREAT-0.7 SODIUM-146* 
POTASSIUM-3.4 CHLORIDE-112* TOTAL CO2-23 ANION GAP-14
___ 11:05PM   CALCIUM-9.0 PHOSPHATE-3.0 MAGNESIUM-2.2
___ 11:05PM   ALT(SGPT)-16 AST(SGOT)-17 ALK PHOS-45 TOT 
BILI-0.3
___ 04:57AM   ALBUMIN-3.5 CALCIUM-8.5 PHOSPHATE-3.7 
MAGNESIUM-1.9

___ 04:57AM BLOOD WBC-5.4 RBC-4.34 Hgb-12.1 Hct-37.0 MCV-85 
MCH-27.9 MCHC-32.8 RDW-12.8 Plt ___
___ 04:57AM BLOOD Neuts-44.7* Lymphs-46.6* Monos-4.7 
Eos-3.7 Baso-0.3
___ 04:57AM BLOOD Glucose-95 UreaN-7 Creat-0.7 Na-143 K-3.7 
Cl-111* HCO3-24 AnGap-12

CXR Portable (___): The heart size is normal. Mediastinal 
position, contour and width are unremarkable. Lungs are clear. 
There is no pleural effusion or pneumothorax. IMPRESSION: Normal 
chest radiograph.
 
Brief Hospital Course:
On arrival to the ED: VS - Temp 97.9F, HR 86, SBP 144, R 18, 
O2-sat 100% RA. She was very somnolent but otherwise had a 
normal neuro exam. Serum and urine tox screens were negative, 
and her ECG was normal. She received 1 dose of charcoal and 
Zofran and toxicology was consulted, who felt that the pt was at 
risk for CNS and respiratory depression from benzodiazepine 
overdose as the long half-life of clonazepam being as long as 
50-60 hours.  

In the ICU, the pt remained sleepy but was otherwise well. Was 
given IVF and supplemental oxygen, and monitored for 
CNS/respiratory depression. She denied suicidal ideation at this 
time. Never needed intubation. Seen by psychiatry; recommended 
1:1 sitter. Was placed with 1:1 sitter.

On admission to floor, patient denied shortness of breath, chest 
pain, shortness of breath, abdominal pain, nausea. Denied 
suicidal ideation currently. Monitored closely. 1:1 sitter. 
Vital signs were stable. Again seen by psychiatry; recommended 
continued 1:1 sitter and transfer to inpatient psychiatry when 
medically stable.
 
Medications on Admission:
Clonazepam 0.5mg PRN
OCPs
 
Discharge Medications:
None
 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Clonazepam overdose
Depression

 
Discharge Condition:
Hemodynamically stable. Ambulatory.

 
Discharge Instructions:
You were admitted to the hospital on ___ after 
taking many Klonopin pills. While in the hospital, we monitored 
you closely to ensure that you were breathing without problem. 
You were monitor in the ICU for one day, and on the general 
medicine floor another day. The psychiatry team was also 
actively involved in your care.

You will be transferred from medicine floor to the inpatient 
psychiatry floor for further management.

Please return to the emergency department or call your primary 
care physician or psychiatrist for any feelings of hurting 
yourself or others or for any other concerns.
 
Followup Instructions:
___